US06627651B1
To 3-hydroxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (1.76 g, 10.0 mmol) dissolved in DMF (20 ml) were added potassium carbonate (2.76 g, 20.0 mmol) and 4-phenylbenzyl bromide (2.72 g, 11.0 mmol), and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, ethyl acetate (30 ml) and THF (30 ml) were added to the residue and the resulting mixture was washed with water (10 ml, 5 ml×3) and an aqueous saturated solution of sodium chloride (5 ml). The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was mixed with diisopropyl ether, and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (3.00 g, 8.76 mmol, 88%).

reactant | 3-hydroxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 10.0 mmol, 1.76 g | OC1=CC2=C(CCCCC2=O)C=C1 | C11H12O2
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenylbenzyl bromide | 11.0 mmol, 2.72 g | C1(=CC=CC=C1)C1=CC=C(CBr)C=C1 | C13H11Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 8.76 mmol, 3.00 g, 88% | C1(=CC=CC=C1)C1=CC=C(COC2=CC3=C(CCCCC3=O)C=C2)C=C1 | C24H22O2
